US06110962
4-Benzo[b]naphtho[2,3-d]thiophen-11-yl-phenol
A 1.0 M solution of boron tribromide in dichloromethane (130 mL, 130 mmol) was added slowly to a stirrred solution of (2-benzyl-benzo[b]thiophen-3-yl)-(4-methoxy-phenyl)-methanone (14.5 g, 40.45 mmol) in dichloromethane (130 mL) at -78° C. under a dry nitrogen atomosphere. The solution was allowed to warm to ambient temperature and was stirred overnight. The reaction mixture was quenched with water and partitioned between water and dichloromethane. Silica gel was added to the dichloromethane phase and the solvent was removed, The adsorbate was flash chromatographed (eluent 4:1 pet. ether:ethyl acetate) to provide a white solid (9.75 g). This solid was recrystalized from acetic acid to provide off-white needles (8.78, 56%): mp: 112-116° C.; NMR (CDCl3); δ 8.33 (s, 1H), 7.94 (dt, J=8 Hz, 1H), 7.77 (dm, J=8 Hz, 1H), 7.64 (dm, J=8 Hz, 1H), 7.52 (ddd, J=8, 7, 1 Hz, 1H), 7.37 (m, 2H), 7.29 (d, J=9 Hz, 2H), 7.11 (d, J=9 Hz, 2H), 7.08 (m, 1H), 6.85 (dm, J=8 Hz, 1H), 2.11 (s, 3H, acetic acid CH3); MS (EI): 326 (100%, MI); Anal. Calc. for C22H14OS.C2H4O2: C, 74.59, H, 4.69, N, 0.00. Found: C, 74.40, H, 4.59, N, 0.15.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | (2-benzyl-benzo[b]thiophen-3-yl)-(4-methoxy-phenyl)-methanone | 40.45 mmol, 14.5 g | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC=C(C=C2)OC | C23H18O2S
solvent | dichloromethane | 130 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 130 mmol, 130 mL | ClCCl | CH2Cl2
product | 4-Benzo[b]naphtho[2,3-d]thiophen-11-yl-phenol | 9.75 g | C1=CC=CC=2SC3=C(C21)C(=C2C=CC=CC2=C3)C3=CC=C(C=C3)O | C22H14OS
